US05846995
N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide hydrochloride
Beginning with 0.100 gm (0.30 mMol) 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran and 0.052 gm (0.33 mMol) 4-fluorobenzoyl chloride, 0.088 gm (70%) of the title compound were recovered as an off-white solid by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-diethylaminodibenzofuran | 0.30 mMol, 0.100 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CC)CC)C1 | C16H22N2O
reactant | 4-fluorobenzoyl chloride | 0.33 mMol, 0.052 gm | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(N,N-Diethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide hydrochloride | 0.088 gm, 70% | Cl.C(C)N(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=C(C=C3)F)=O)CC1)CC | InChI=1S/C23H25FN2O2.ClH/c1-3-26(4-2)18-10-12-22-20(14-18)19-13-17(9-11-21(19)28-22)25-23(27)15-5-7-16(24)8-6-15;/h5-9,11,13,18H,3-4,10,12,14H2,1-2H3,(H,25,27);1H
